US07863293B2
COMPOUND 365: (S)-N-{4-[(3,5-Dimethyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-butyl}-acetamide (HBr salt)
To a solution of (S)-N1-(3,5-Dimethyl-pyridin-2-ylmethyl)-N1-(5,6,7,8-tetrahydro-quinolin-8-yl)-butane-1,4-diamine (56 mg, 0.17 mmol) in CH2Cl2 (3 mL) was added Et3N (70 μL, 0.50 mmol) followed by Ac2O (30 μL, 0.32 mmol). The resultant solution was stirred at room temperature for 70 minutes. The mixture was diluted with CH2Cl2 (20 mL), washed with brine (3×5 mL), dried (Na2SO4), and concentrated. Purification of the crude material by radial chromatography on silica gel (1 mm plate, 40:1:1 CH2Cl2-MeOH—NH4OH) provided 27 mg (43%) of the free base of the title compound as a colorless oil. Using General Procedure D: Conversion of the oil to the HBr salt gave COMPOUND 365 as a white solid. 1H NMR (D2O) δ 1.11-1.39 (m, 4H), 1.82-1.85 (m, 4H), 1.97-2.27 (m, 2H), 2.41-2.49 (m, 8H), 2.65-2.72 (m, 1H), 2.98 (br s, 4H), 4.17 (d, 1H, J=17.7 Hz), 4.36 (d, 1H, J=17.7 Hz), 4.48 (dd, 1H, J=5.4, 10.2 Hz), 7.86 (dd, 1H, J=7.8, 5.7 Hz), 8.22 (s, 1H), 8.34 (d, 1H, J=7.8 Hz), 8.44 (s, 1H), 8.59 (d, 1H, J=5.7 Hz); 13C NMR (D2O) δ 16.95, 17.50, 20.48, 20.60, 22.17, 25.55, 26.51, 27.82, 38.95, 52.01, 52.43, 61.54, 125.80, 136.33, 137.29, 137.53, 139.25, 140.56, 148.02, 149.11, 151.32, 174.09; ES-MS m/z 381 (M+H). Anal. Calcd. For C23H32N4O.3.0HBr.3.0H2O: C, 40.79; H, 6.10; N, 8.27; Br, 35.39. Found: C, 40.73; H, 6.04; N, 8.02; Br, 35.61.

reactant | (S)-N1-(3,5-Dimethyl-pyridin-2-ylmethyl)-N1-(5,6,7,8-tetrahydro-quinolin-8-yl)-butane-1,4-diamine | 0.17 mmol, 56 mg | CC=1C(=NC=C(C1)C)CN(CCCCN)[C@H]1CCCC=2C=CC=NC12 | C21H30N4
reactant | Et3N | 0.50 mmol, 70 μL | CCN(CC)CC | C6H15N
reactant | Ac2O | 0.32 mmol, 30 μL | CC(=O)OC(=O)C | C4H6O3
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (S)-N-{4-[(3,5-Dimethyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-butyl}-acetamide | 27 mg, 43% | CC=1C(=NC=C(C1)C)CN(CCCCNC(C)=O)[C@H]1CCCC=2C=CC=NC12 | C23H32N4O
